US05658491
Preparation of 5-Octyl-2-[4-(5-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)pentyloxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 5-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)1-bromopentane (18.3 g, 38.5 mmol; prepared from 1,5-dibromopentane (107 g, 0.7 mol) and 2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethanol (125 g, 0.31 mol) essentially as in Example 2 ) with 5-octyl-2-(4-hydroxyphenyl)pyrimidine (10 g, 35 mmol) to provide product boiling at 200°-210° C. at 0.4 torr (yield of 20.8 g).

reactant | 5-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)1-bromopentane | FC(OC(C(OC(C(OC(COCCCCCBr)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C12H12BrF13O4
reactant | 1,5-dibromopentane | 0.7 mol, 107 g | BrCCCCCBr | C5H10Br2
reactant | 2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethanol | 0.31 mol, 125 g | FC(OC(C(OC(C(OC(CO)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C7H3F13O4
reactant | 5-octyl-2-(4-hydroxyphenyl)pyrimidine | 35 mmol, 10 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
product | 5-Octyl-2-[4-(5-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)pentyloxy)phenyl]pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCOCC(F)(F)OC(C(OC(C(OC(F)(F)F)(F)F)(F)F)(F)F)(F)F | C30H35F13N2O5
